US08039480B2
In a reaction vessel, 100 mg of methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride (0.49 mmol) were admixed with 320 mg of N,O-bis(trimethylsilyl)-acetamide (3.2 eq.) in 3 ml of acetonitrile. The reaction mixture was treated at 100° C. in a microwave for 30 min. 128 mg of 8-azaspiro[4.5]decane-8-sulfonyl chloride (1.1 eq.), dissolved in 2.5 ml of acetonitrile, were then added and the resulting reaction mixture was treated at 100° C. in a microwave for a further 2.5 h. The reaction mixture was concentrated under reduced pressure and the resulting residue was purified by preparative HPLC (gradient: acetonitrile/water and addition of 0.05% TFA). Methyl (S)-2-(8-azaspiro[4.5]decane-8-sulfonylamino)-4,4-difluoropentanoate was obtained as a colorless amorphous material.

reactant | methyl (S)-2-amino-4,4-difluoropentanoate hydrochloride | 0.49 mmol, 100 mg | Cl.N[C@H](C(=O)OC)CC(C)(F)F
reactant | 8-azaspiro[4.5]decane-8-sulfonyl chloride | 128 mg, 1.1 eq. | C1CCCC12CCN(CC2)S(=O)(=O)Cl | C9H16ClNO2S
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | Methyl (S)-2-(8-azaspiro[4.5]decane-8-sulfonylamino)-4,4-difluoropentanoate | C1CCCC12CCN(CC2)S(=O)(=O)N[C@H](C(=O)OC)CC(C)(F)F | C15H26F2N2O4S
